US08937182B2
Preparation of 2-(4-(hydroxymethyl)phenoxy)-1-(3-methoxyphenyl)ethanone
To a stirring solution of 2-bromo-3′-methoxyacetophenone (3.00 g, 13.1 mmol; Supplier=Kalexsyn; Lot=803-TTP-145) in acetone (30 ml) was added 4-hydroxybenzylalcohol (1.69 g, 13.6 mmol) and potassium carbonate (1.88 g, 13.6 mmol). The resulting mixture was stirred at RT overnight. The reaction mixture was partitioned between water and EtOAc, and the aqueous phase was extracted with EtOAc. The combined organic phases were washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The product was analyzed on a large Biotage column eluting with 50% EtOAc/hexanes. Fractions containing product were combined and evaporated in vacuo to give 2.98 g of the title compound as a white solid.

reactant | 2-bromo-3′-methoxyacetophenone | 13.1 mmol, 3.00 g | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
reactant | 4-hydroxybenzylalcohol | 13.6 mmol, 1.69 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | potassium carbonate | 13.6 mmol, 1.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(4-(hydroxymethyl)phenoxy)-1-(3-methoxyphenyl)ethanone | 2.98 g | OCC1=CC=C(OCC(=O)C2=CC(=CC=C2)OC)C=C1 | C16H16O4
